US05151548
In a 5 l stirred autoclave, a mixture of 485 g of 2-cyclopentyl-6-methylphenol and 551 g of ammonia is subjected to reductive amination in the presence of a powder catalyst containing 10% by weight of palladium and 5% by weight of praseodymium oxide on alumina at 230° C. and under a hydrogen pressure of 300 bar until the pressure remains constant. After the catalyst has been separated off, 484 g (95% yield) of crude 2-cyclopentyl-6-methylcyclohexylamine are obtained, and can be used without further purification in the next stage.

reactant | 2-cyclopentyl-6-methylphenol | 485 g | C1(CCCC1)C1=C(C(=CC=C1)C)O | C12H16O
reactant | ammonia | 551 g | N | H3N
reactant | praseodymium oxide | [O-2].[Pr+3].[O-2].[O-2].[Pr+3]
catalyst | palladium | [Pd] | Pd
product | 2-cyclopentyl-6-methylcyclohexylamine | 484 g, 95% yield | C1(CCCC1)C1C(C(CCC1)C)N | C12H23N
